US07074799B2
5. 6′-Chloro-3-trifluoromethyl-[2,3′]bipyridinyl-5′-ylamine
To a solution of 6′-chloro-5′-nitro-3-trifluoromethyl-[2,3′]bipyridinyl (25 g, 0.082 mol) and calcium chloride (11 g, 0.1 mol) in ethanol (300 mL) and water (50 mL), add iron powder (45 g, 0.82 mol). Heat the solution to reflux for 1.5 hours, cool and filter through Celite. Concentrate the mixture under reduced pressure, re-dissolve in ethyl acetate (300 mL) and wash with brine (200 mL). Concentrate the solution under reduced pressure and purify by flash chromatography on silica gel (50% ether/50% hexane) to give the title compound (19 g, 85%) as a pale yellow solid.

reactant | 6′-chloro-5′-nitro-3-trifluoromethyl-[2,3′]bipyridinyl | 0.082 mol, 25 g | ClC1=C(C=C(C=N1)C1=NC=CC=C1C(F)(F)F)[N+](=O)[O-] | C11H5ClF3N3O2
reactant | calcium chloride | 0.1 mol, 11 g | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
catalyst | iron | 0.82 mol, 45 g | [Fe] | Fe
product | 6′-Chloro-3-trifluoromethyl-[2,3′]bipyridinyl-5′-ylamine | 19 g, 85% | ClC1=C(C=C(C=N1)C1=NC=CC=C1C(F)(F)F)N | C11H7ClF3N3
